US06147088
Step 1B 1-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-3-ethylurea
A solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-ethylureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester (50 mg in 5 mL of a 30% solution of hydrobromic acid in acetic acid) was stirred at room temperature for 18 hours then concentrated in vacuo. The residue was treated with saturated sodium bicarbonate and then extracted with methylene chloride. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 96:3:1) gave the title compound (18 mg). MASS: 497 (M+H)

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-ethylureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NCC)Cl)=O)C1=CC(=CC(=C1)C)C | C35H39ClN4O5
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-3-ethylurea | 18 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1NCCCC1)NC(=O)NCC | C27H33ClN4O3
